US04906634
N-[4-[2-(Diethylamino)ethoxy]phenyl]methanesulfonamide methanesulfonic acid salt
To a solution of 2.8 g (12.4 mmol) of 4-[2-(diethylamino)ethoxy]benzenamine dissolved in 30 mL of acetonitrile cooled to 0° C. add 2.6 g (15 mmol) of methanesulfonic anhydride. Stir the reaction mixture for 4 h at ambient temperature. Remove the solvent in vacuo and recrystallize the residue from acetonitrile/ethyl acetate to obtain the title compound.

reactant | 4-[2-(diethylamino)ethoxy]benzenamine | 12.4 mmol, 2.8 g | C(C)N(CCOC1=CC=C(C=C1)N)CC | C12H20N2O
reactant | methanesulfonic anhydride | 15 mmol, 2.6 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-[4-[2-(Diethylamino)ethoxy]phenyl]methanesulfonamide methanesulfonic acid salt | CS(=O)(=O)O.C(C)N(CCOC1=CC=C(C=C1)NS(=O)(=O)C)CC | InChI=1S/C13H22N2O3S.CH4O3S/c1-4-15(5-2)10-11-18-13-8-6-12(7-9-13)14-19(3,16)17;1-5(2,3)4/h6-9,14H,4-5,10-11H2,1-3H3;1H3,(H,2,3,4)
